US07705028B2
4h) 6-[4-({[3-[(2,6-dichlorophenyl)methyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylic acid
A solution of ethyl 6-[4-({[3-[(2,6-dichlorophenyl)methyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate (0.116 g, 0.20 mmol) in tetrahydrofuran (2 mL) was placed in a microwave reaction tube. Ethanol (1 mL) was added followed by 1N sodium hydroxide (0.312 mL, 0.31 mmol). The tube was sealed and heated in a microwave reactor to 100° C. for 500 seconds. Additional sodium hydroxide solution (0.2 mL, 0.2 mmol) was added and the solution was heated in a microwave reactor to 100° C. for another 500 seconds. The solution was neutralized with 1 N hydrochloric acid and concentrated. The residue was slurried in hexanes. The solid was slurried in water and the mixture was decanted and the solid dried to yield the title compound as a white solid (0.112 g, 100% as 0.15EtOAc). 1H NMR (DMSO-d6) δ 13.14 (s, 1H), 8.91 (d, J=9 Hz, 1H), 8.26 (s, 1H), 8.20 (d, J=8 Hz, 1H), 8.10 (d, J=7 Hz, 1H), 7.96 (dd, J=2, 9 Hz, 1H), 7.80 (d, J=9 Hz, 2H), 7.58 (m, 1H), 7.46 (d, J=8 Hz, 2H), 7.31 (t, J=8 Hz, 1H), 7.16 (d, J=9 Hz, 2H), 5.08 (s, 2H), 4.29 (s, 2H), 3.36 (septet, J=7 Hz, overlapping H2O 1H), 1.22 (d, J=7 Hz, 6H). HRMS C31H25NO4Cl2 m/z 546.1239 (M+H)+Cal; 546.1226 (M+H)+Obs.

reactant | ethyl 6-[4-({[3-[(2,6-dichlorophenyl)methyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate | 0.20 mmol, 0.116 g | ClC1=C(C(=CC=C1)Cl)CC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C(=O)OCC)C(C)C | C33H29Cl2NO4
reactant | Ethanol | 1 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 0.31 mmol, 1N, 0.312 mL | [OH-].[Na+]
reactant | sodium hydroxide | 0.2 mmol, 0.2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 6-[4-({[3-[(2,6-dichlorophenyl)methyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylic acid | 0.112 g, 100% | ClC1=C(C(=CC=C1)Cl)CC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C(=O)O)C(C)C | C31H25Cl2NO4
